US06350907B1
N-(Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (214 mg, 1.12 mmol) was added to a stirred mixture of methyl (2S, 3R)-3-carboxy-2-ethoxy-hex-4-enoate (Preparation 7) (210 mg, 0.97 mmol) and 1-hydroxy-7-azabenzotriazole (139 mg, 1.02 mmol) in anhydrous dimethylformamide (4 mL) under nitrogen at 0° C. After 1 h, (2S)-amino-3,3-dimethyl-N-[(1R)-1-phenylethyl]butanamide hydrochloride (Preparation 1)(276 mg, 1.02 mmol) was added, followed by diisopropylethylamine (0.18 μL, 1.02 mmol). After another 30 min, the mixture was allowed to warm to room temperature. After 17 h at room temperature, the mixture was concentrated under reduced pressure, and partitioned between ethyl acetate (50 mL) and water (50 mL). The aqueous layer was saturated with sodium bicarbonate and extracted with ethyl acetate (2×20 mL). The combined organic solutions were concentrated under reduced pressure, dissolved in ether (50 mL), washed with water (3×20 mL), dried (Na2SO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with hexane:ethyl acetate=60:40) to give methyl (2S,3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-2-ethoxy-hex-5-enoate (181 mg, 43%), as a colourless solid (single diastereomer by 1H NMR).

reactant | N-(Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.12 mmol, 214 mg | Cl.CN(C)CCCN=C=NCC
reactant | methyl (2S, 3R)-3-carboxy-2-ethoxy-hex-4-enoate | 0.97 mmol, 210 mg | C(=O)(O)[C@@H]([C@@H](C(=O)OC)OCC)C=CC | C10H16O5
reactant | 1-hydroxy-7-azabenzotriazole | 1.02 mmol, 139 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2S)-amino-3,3-dimethyl-N-[(1R)-1-phenylethyl]butanamide hydrochloride | 1.02 mmol, 276 mg | Cl.N[C@H](C(=O)N[C@H](C)C1=CC=CC=C1)C(C)(C)C
reactant | diisopropylethylamine | 1.02 mmol, 0.18 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | methyl (2S,3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-2-ethoxy-hex-5-enoate | 181 mg, 43% | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H]([C@@H](C(=O)OC)OCC)CC=C)(C)C | C24H36N2O5
